US05656626
(E)-3-(8-Chloro-3-methoxy-2,5-dioxo-2,5-dihydro-1H-benzo[b]azepin-4-yl)-2-methylacrylic Acid
4-[2-(Tert-butoxycarbonyl)propenyl]-8-chloro-3-methyoxy-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine (0.35 g) in methylene chloride (7 mL) was treated with trifluoroacetic acid. The solution was stirred under argon at room temperature for 40 minutes and then it was concentrated to a white solid. The solid was dissolved in hot methanol (30 mL). The solution was filtered and concentrated to 7 mL volume as a solid formed. The solid was filtered off, washed with cold methanol, and air-dried to give a white solid (0.0748 g); mp=277.4°-278.6° C. (dec); 1H NMR (d6 -DMSO) 7.17 (s,1) for olefin proton; MS: m/z=304, 322 (base peak)(M+1). Analysis for C15H12ClNO5 : Calculated: C, 56.00; H, 3.76; N, 4.35; Found: C, 55.86; H, 3.82; N, 4.32.

reactant | 4-[2-(Tert-butoxycarbonyl)propenyl]-8-chloro-3-methyoxy-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine | 0.35 g | C(C)(C)(C)OC(=O)C(=CC=1C(C2=C(NC(C1OC)=O)C=C(C=C2)Cl)=O)C | C19H20ClNO5
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 7 mL | C(Cl)Cl | CH2Cl2
product | (E)-3-(8-Chloro-3-methoxy-2,5-dioxo-2,5-dihydro-1H-benzo[b]azepin-4-yl)-2-methylacrylic Acid | 0.0748 g | ClC=1C=CC2=C(NC(C(=C(C2=O)/C=C(/C(=O)O)\C)OC)=O)C1 | C15H12ClNO5
